US05663192
Synthesis of 2-(3-methoxyphenoxy)-1-(4-methoxyphenyl)ethanone.
In a one liter round-bottom flask, fitted with a condenser and nitrogen inlet, were added 3-methoxyphenol (12.4 g, 0.1 mole), 4-methoxyphenacyl bromide (22.9 g, 0.1 mole), potassium carbonate (17.3 g, 0.125 mole) in 100 ml of 2-butanone. This mixture was heated to 80° C. and was maintained at this temperature for about four hours. The progress of the reaction was monitored by thin layer chromatography (silica gel, 9:1 toluene:ethyl acetate).

reactant | 3-methoxyphenol | 0.1 mole, 12.4 g | COC=1C=C(C=CC1)O | C7H8O2
reactant | 4-methoxyphenacyl bromide | 0.1 mole, 22.9 g | COC1=CC=C(C(CBr)=O)C=C1 | C9H9BrO2
reactant | potassium carbonate | 0.125 mole, 17.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | 2-butanone | 100 ml | CC(CC)=O | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-methoxyphenoxy)-1-(4-methoxyphenyl)ethanone | COC=1C=C(OCC(=O)C2=CC=C(C=C2)OC)C=CC1 | C16H16O4
